US06559091B1
2-Naphthalen-1-yl-5-phenyl-1-(2-trimethylsilanyl-ethoxycarbonylamino)-1H-pyrrole-3-carboxylic acid ethyl ester (608 mg, 1.3 mmol) was treated with a solution of TBAF in THF (2.66 mL of a 1 M solution, 2.7 mmol). The resulting solution was stirred at rt under Ar overnight. The reaction was quenched with glacial acetic acid (145 μL, 2.5 mmol), and passed through a short plug of silica gel eluting with toluene. The filtrate was concentrated in vacuo to afford 1-Amino-2-naphthalen-1-yl-5-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester (434 mg), which was not purified, but was used immediately for the next reaction.

reactant | 2-Naphthalen-1-yl-5-phenyl-1-(2-trimethylsilanyl-ethoxycarbonylamino)-1H-pyrrole-3-carboxylic acid ethyl ester | 1.3 mmol, 608 mg | C(C)OC(=O)C1=C(N(C(=C1)C1=CC=CC=C1)NC(=O)OCC[Si](C)(C)C)C1=CC=CC2=CC=CC=C12 | C29H32N2O4Si
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | acetic acid | 2.5 mmol, 145 μL | C(C)(=O)O | C2H4O2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | THF | C1CCOC1 | C4H8O
product | 1-Amino-2-naphthalen-1-yl-5-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester | 434 mg | C(C)OC(=O)C1=C(N(C(=C1)C1=CC=CC=C1)N)C1=CC=CC2=CC=CC=C12 | C23H20N2O2
